US08207344B2
2: 4-(4-Bromo-phenyl)-1-methanesulfonyl-1,2,3,6-tetrahydro-pyridine
A mixture of 4-(4-bromo-phenyl)-1-methanesulfonyl-piperidin-4-ol (60.00 g, 179.51 mmol) and p-toluenesulfonic acid (9.37 g, 53.85 mmol) in toluene (1.08 L) is stirred at 100° C. for 16 h. The reaction is cooled to 23° C. and successively washed with 2 M aq. sodium hydroxide to pH 10, and water. The phases are separated and the organic layer is dried over anhydrous sodium sulfate, filtered and the solvent is removed. Methyl tert-butyl ether (200 mL) is added and the solid is filtered and washed with methyl tert-butyl ether to obtain 35.0 g of the title compound as a pale brown solid. MS m/e (79Br/81Br) 315, 317 (M+1).

reactant | 4-(4-bromo-phenyl)-1-methanesulfonyl-piperidin-4-ol | 179.51 mmol, 60.00 g | BrC1=CC=C(C=C1)C1(CCN(CC1)S(=O)(=O)C)O | C12H16BrNO3S
reactant | p-toluenesulfonic acid | 53.85 mmol, 9.37 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 1.08 L | C1(=CC=CC=C1)C | C7H8
product | 4-(4-Bromo-phenyl)-1-methanesulfonyl-1,2,3,6-tetrahydro-pyridine | 35.0 g | BrC1=CC=C(C=C1)C=1CCN(CC1)S(=O)(=O)C | C12H14BrNO2S
